US04623657
5-Bromo-spiro[benzofuran-2(3H),1'-cycloheptan]-3-one
To a stirred mixture of 17.57 g of potassium persulfate, 5.19 g of cupric sulfate and 100 ml of distilled water was added a solution of 9.13 g of 5-bromo-spiro[benzofuran-2(3H),1'-cycloheptane] in 100 ml of acetonitrile. The mixture was stirred and heated to reflux; after 1.5 hours, GC showed only 6% unreacted starting material. Another 3.51 g of potassium persulfate was added and the mixture was refluxed for another hour and thereafter cooled to room temperature. The mixture was diluted with water (1.0 liter) and extracted with ether (1×500 ml, 2×250 ml). The combined ether extracts were washed with water (250 ml) and saturated sodium chloride solution (250 ml), dried overnight over anhydrous sodium sulfate, filtered and concentrated in vacuo to a gum weighing 7.63 g. This material was taken up in 100 ml of hexane and gravity-filtered to remove insoluble material, and the flask, filter paper and insoluble material were rinsed with another 100 ml of hexane. The hexane filtrate was concentrated in vacuo to an oil weighing 5.84 g. Vacuum distillation of this material afforded 2.76 g of viscous distillate, b.p. 135°-140° C. @ 0.15 mm.

reactant | potassium persulfate | 17.57 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | 5-bromo-spiro[benzofuran-2(3H),1'-cycloheptane] | 9.13 g | BrC=1C=CC2=C(CC3(CCCCCC3)O2)C1 | C14H17BrO
reactant | potassium persulfate | 3.51 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 1.0 liter | O | H2O
solvent | water | 100 ml | O | H2O
product | 5-Bromo-spiro[benzofuran-2(3H),1'-cycloheptan]-3-one | BrC=1C=CC2=C(C(C3(CCCCCC3)O2)=O)C1 | C14H15BrO2
